US07884123B2
1.7 g (1.4 mmol) of tetrakis(triphenylphosphine)-palladium [0], a solution of 6.6 g (43.2 mmol) of trans-β-styreneboronic acid in 40 cm3 of ethanol, and then a solution of 9.2 g (86.4 mmol) of sodium carbonate in 40 cm3 of water are successively added to a solution of 10.0 g (28.8 mmol) of ethyl 3-bromo-1-(1-ethoxyethyl)-1H-thieno[2,3-c]pyrazole-5-carboxylate in 300 cm3 of toluene. The reaction mixture is heated at a temperature in the region of 82° C. for 2.5 hours and is then cooled to a temperature in the region of 25° C. and diluted with 500 cm3 of water and 300 cm3 of ethyl acetate. After separation of the phases by settling, the organic phase is washed successively with twice 300 cm3 of water and then 300 cm3 of saturated brine. The organic phase is then dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. The residue is purified by chromatography under a pressure of argon (80 kPa), on a cartridge containing 330 g of silica gel (particle size 32-63 μm), eluting with a cyclohexane/ethyl acetate mixture (90/10 by volume). The fractions containing the expected product are combined and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 9.3 g of ethyl 1-(1-ethoxyethyl)-3-((E)-styryl)-1H-thieno[2,3-c]pyrazole-5-carboxylate are thus obtained in the form of a yellow solid. (Rf=0.70, thin-layer chromatography on silica gel, eluent: dichloromethane/methanol (98/2 by volume)).

reactant | trans-β-styreneboronic acid | 43.2 mmol, 6.6 g | C(=C\C1=CC=CC=C1)/B(O)O | C8H9BO2
reactant | sodium carbonate | 86.4 mmol, 9.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl 3-bromo-1-(1-ethoxyethyl)-1H-thieno[2,3-c]pyrazole-5-carboxylate | 28.8 mmol, 10.0 g | BrC=1C2=C(N(N1)C(C)OCC)SC(=C2)C(=O)OCC | C12H15BrN2O3S
solvent | ethanol | 40 cm3 | C(C)O | C2H6O
solvent | water | 40 cm3 | O | H2O
solvent | toluene | 300 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | water | 500 cm3 | O | H2O
solvent | ethyl acetate | 300 cm3 | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium | 1.4 mmol, 1.7 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | ethyl 1-(1-ethoxyethyl)-3-((E)-styryl)-1H-thieno[2,3-c]pyrazole-5-carboxylate | 9.3 g | C(C)OC(C)N1N=C(C2=C1SC(=C2)C(=O)OCC)\C=C\C2=CC=CC=C2 | C20H22N2O3S
